US07662771B2
Add a solution of sodium hydroxide (1.80 g, 45.0 mmol) in water (30 mL) to a solution of 7-(5-phenyloxazol-2-yl)heptanoic acid methyl ester (9.0 g, 31.3 mmol) in methanol (30 mL) at room temperature and stir the mixture for 4 hours. Adjust the pH of the mixture to 2 with 1 N HCl and extract with ethyl acetate (500 mL). Wash the combined organic layers with water (3×100 mL), dry over sodium sulfate and remove the solvent under reduced pressure. Crystallize the residue from ethyl acetate/hexanes to afford 7-(5-phenyloxazol-2-yl)heptanoic acid (7.3 g, 85%): APCI mass spectrum m/z 272 [C16H19NO3−H]−.

reactant | sodium hydroxide | 45.0 mmol, 1.80 g | [OH-].[Na+]
reactant | 7-(5-phenyloxazol-2-yl)heptanoic acid methyl ester | 31.3 mmol, 9.0 g | COC(CCCCCCC=1OC(=CN1)C1=CC=CC=C1)=O | C17H21NO3
reactant | HCl | 1 N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 7-(5-phenyloxazol-2-yl)heptanoic acid | 7.3 g, 85% | C1(=CC=CC=C1)C1=CN=C(O1)CCCCCCC(=O)O | C16H19NO3
